US07307095B2
Step C: (S)-N1-(4-Trifluoromethoxy-phenyl)-propane-1,2-diamine.
[1-(S)-Methyl-2-(4-trifluoromethoxy-phenylamino)-ethyl]-carbamic acid benzyl ester (23.9 mmol) was dissolved in ethanol (200 mL) then placed under nitrogen. 10% Palladium on carbon was added (0.5 g) and the mixture was stirred under hydrogen (atmospheric pressure) overnight. When reaction was complete, the mixture was filtered through celite. The celite was washed with ethanol (5×50 ml) then evaporated in vacuo to give a brown oil (4.03 g, 17.21 mmol, 72% yield over 3 steps).

reactant | [1-(S)-Methyl-2-(4-trifluoromethoxy-phenylamino)-ethyl]-carbamic acid benzyl ester | 23.9 mmol | C(C1=CC=CC=C1)OC(N[C@H](CNC1=CC=C(C=C1)OC(F)(F)F)C)=O | C18H19F3N2O3
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | Palladium on carbon | [Pd] | Pd
product | (S)-N1-(4-Trifluoromethoxy-phenyl)-propane-1,2-diamine | 72% yield | FC(OC1=CC=C(C=C1)NC[C@H](C)N)(F)F | C10H13F3N2O
